US08735384B2
2-Bromo-6-methylaniline (1.080 mL, 8.58 mmol), 4-chloro-3-methyl-1H-pyrazole (1.0 g, 8.58 mmol), potassium carbonate (2.49 g, 18.02 mmol), and copper(I) iodide (0.082 g, 0.429 mmol) were added to a RBF which was evacuated and flushed with N2 3×. Toluene (9 mL) (degassed by bubbling N2 through solution for 10 minutes) and N1,N2-dimethylethane-1,2-diamine (0.185 mL, 1.716 mmol) were added and the mixture was heated in an oil bath at 110° C. After 18 h, the reaction was allowed to cool, diluted with EtOAc, and 10:1 saturated ammonium chloride/ammonium hydroxide. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic extracts were washed with water, saturated sodium chloride, and dried over sodium sulfate. The solution was filtered and concentrated in vacuo to give the crude material. The crude material was purified by silica gel column chromatography eluting with 1:2 EtOAc in hexanes to provide 2-(4-chloro-3-methyl-1H-pyrazol-1-yl)-6-methylaniline.

reactant | 2-Bromo-6-methylaniline | 8.58 mmol, 1.080 mL | BrC1=C(N)C(=CC=C1)C | C7H8BrN
reactant | 4-chloro-3-methyl-1H-pyrazole | 8.58 mmol, 1.0 g | ClC=1C(=NNC1)C | C4H5ClN2
reactant | potassium carbonate | 18.02 mmol, 2.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | N1,N2-dimethylethane-1,2-diamine | 1.716 mmol, 0.185 mL | CNCCNC | C4H12N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | ammonium chloride ammonium hydroxide | [Cl-].[NH4+].[OH-].[NH4+]
catalyst | copper(I) iodide | 0.429 mmol, 0.082 g | [Cu]I
solvent | Toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-chloro-3-methyl-1H-pyrazol-1-yl)-6-methylaniline | ClC=1C(=NN(C1)C1=C(N)C(=CC=C1)C)C | C11H12ClN3
